US05723606
Using 400 mg of 2-phenyl-4'-[(5-oxo-2,3,4,5-tetrahydro1H-1-benzazepin-1-yl)carbonyl]benzanilide and 300 mg of dimethylaminoethylthiourea hydrochloride and using ethyl alcohol as the reaction solvent, the procedure of Example 5 was repeated and the resulting residue was recrystallized from ethyl acetate-diethyl ether to obtain 300 mg of 4'-[(2-dimethylaminoethylamino-5,6-dihydro-4H-thiazolo[5,4-d][1]benzazepin-6-yl)carbonyl]-2-phenylbenzanilide.2 HCl.

reactant | 2-phenyl-4'-[(5-oxo-2,3,4,5-tetrahydro1H-1-benzazepin-1-yl)carbonyl]benzanilide | 400 mg | C1(=CC=CC=C1)C1=C(C(=O)NC2=CC=C(C=C2)C(=O)N2CCCC(C3=C2C=CC=C3)=O)C=CC=C1 | C30H24N2O3
reactant | dimethylaminoethylthiourea hydrochloride | 300 mg | Cl.CN(C)CCNC(=S)N
solvent | ethyl alcohol | C(C)O | C2H6O
product | 4'-[(2-dimethylaminoethylamino-5,6-dihydro-4H-thiazolo[5,4-d][1]benzazepin-6-yl)carbonyl]-2-phenylbenzanilide | 300 mg | CN(CCNC=1SC=2CCN(C3=C(C2N1)C=CC=C3)C(=O)C3=CC=C(NC(C1=C(C=CC=C1)C1=CC=CC=C1)=O)C=C3)C | C35H33N5O2S
